US08754100B2
Synthesis of methyl 3-amino-4-(piperidin-1-yl)benzoate
Using 10% palladium carbon cartridge, a solution of methyl 3-nitro-4-(piperidin-1-yl)benzoate (3.07 g) in methanol (50 ml) was pumped through the H-Cube™ reactor (ThalesNano Inc.). After all the reaction mixture had passed through the H-Cube™ reactor, the reaction mixture was concentrated under reduced pressure. The residue was purified by NH-silica gel column chromatography to obtain a title compound (2.32 g).

reactant | methyl 3-nitro-4-(piperidin-1-yl)benzoate | 3.07 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1N1CCCCC1 | C13H16N2O4
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | methyl 3-amino-4-(piperidin-1-yl)benzoate | 2.32 g | NC=1C=C(C(=O)OC)C=CC1N1CCCCC1 | C13H18N2O2
